US03959322
Hydrogenate dl-13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8,14-pentaene (15.3 g) in benzene (300 ml) with 2% palladized strontium carbonate (5.0 g). The uptake of 1,040 ml. will require 10 minutes. Work up in the usual manner, then recrystallize from 95% ethanol (110 ml) to obtain dl-13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8-tetraene (11.0 g. of diamond-shaped plates; 71.8% yield), m.p. 122°-124°; ultraviolet absorption peak at 280 mμ (ε15,140).

reactant | 13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8,14-pentaene | 15.3 g | C(C)[C@]12C3(CC=C2C2=C(CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H28O3
reactant | strontium carbonate | 5.0 g | C([O-])([O-])=O.[Sr+2]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8-tetraene | 11.0 g, 71.8% yield | C(C)[C@]12C3(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H30O3
